US04017510
A suspension of sodium hydride (from 1.92 g of a 50% suspension of sodium hydride in mineral oil) in 150 ml toluene is heated under reflux. During 20 minutes is then added portionwise 6.13 g (0.02 mole) methyl N-(1-carbamoyl-1,2,2-trimethylpropyl)phthalamate to the stirred, refluxing, mixture. Heating is continued for 30 minutes after the addition, the mixture filtered through diatomaceous earth, and the solvent removed in vacuo. The residue crystallizes and is recrystallized from a mixture of acetone-hexane to give 3-t-butyl-3-methyl-3H-imidazo[2,1-a]isoindole-2,5-dione, melting point 136.5°-137.5° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl N-(1-carbamoyl-1,2,2-trimethylpropyl)phthalamate | 0.02 mole, 6.13 g | C(N)(=O)C(C(C)(C)C)(C)NC(C=1C(C(=O)OC)=CC=CC1)=O | C16H22N2O4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-t-butyl-3-methyl-3H-imidazo[2,1-a]isoindole-2,5-dione | C(C)(C)(C)C1(C(N=C2N1C(C1=CC=CC=C21)=O)=O)C | C15H16N2O2
